US08859535B2
(4-Bromo-phenyl)-(9-thia-bicyclo[3.3.1]non-3-yl)methanol
To a solution of 1-bromo-4-iodobenzene (1.462 g, 5.17 mmol) in THF (13 ml) at −30° C. to −25° C. was added isopropylmagnesium chloride 2M in THF (2.82 ml, 5.64 mmol). The reaction mixture was stirred at −30 to −20° C. for 2 hrs, allowed to warm to −3° C. and 9-thia-bicyclo[3.3.1]nonane-3-carbaldehyde (800 mg, 4.70 mmol) was added, the syringe was rinsed with THF (1 ml) and the solution was stirred for 1.5 hrs while cooled in an ice bath. The reaction mixture was quenched at 0° C. with a solution of aqueous saturated NH4Cl and water 2/1 (15 ml), diluted with ethyl acetate and extracted with ethyl acetate. The organic phases were combined, washed with brine, dried using Na2SO4, filtered and concentrated in vacuo. The crude product was purified by silica gel column chromatography (eluting with a gradient of hexanes:MTBE 98:02 to 70:30) yielding the title intermediate (1.11 g, 2.88 mmol, 61%) as a colourless resin.

reactant | 1-bromo-4-iodobenzene | 5.17 mmol, 1.462 g | BrC1=CC=C(C=C1)I | C6H4BrI
reactant | isopropylmagnesium chloride | 2M | C(C)(C)[Mg]Cl
reactant | 9-thia-bicyclo[3.3.1]nonane-3-carbaldehyde | 4.70 mmol, 800 mg | C12CC(CC(CCC1)S2)C=O | C9H14OS
solvent | THF | 13 ml | C1CCOC1 | C4H8O
solvent | THF | 5.64 mmol, 2.82 ml | C1CCOC1 | C4H8O
product | (4-Bromo-phenyl)-(9-thia-bicyclo[3.3.1]non-3-yl)methanol | 2.88 mmol, 1.11 g, 61% | BrC1=CC=C(C=C1)C(O)C1CC2CCCC(C1)S2 | C15H19BrOS
